US09169254B2
2-Bromoethanol (0.28 mL, 4.00 mmol) was added to a solution of chlorosulfonyl isocyanate (0.35 mL, 4.00 mmol) in dichloromethane (1.8 mL) at 0° C. After stirring for 90 minutes, a solution of 3-ethylaniline (0.55 mL, 4.40 mmol) and triethylamine (1.23 mL, 8.80 mmol) in dichloromethane (3.6 mL) was added. The mixture was stirred for 90 minutes and then quenched with a 2 N aqueous hydrochloric acid solution. The mixed solution was separated, and the aqueous layer was then extracted with ether. The organic layers were combined and washed with water and saturated brine, and then dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was washed with ether (5 mL) to give 2-oxo-oxazolidine-3-sulfonic acid (3-ethylphenyl)amide (LCMS yield 80%).

reactant | 2-Bromoethanol | 4.00 mmol, 0.28 mL | BrCCO | C2H5BrO
reactant | chlorosulfonyl isocyanate | 4.00 mmol, 0.35 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-ethylaniline | 4.40 mmol, 0.55 mL | C(C)C=1C=C(N)C=CC1 | C8H11N
reactant | triethylamine | 8.80 mmol, 1.23 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.6 mL | ClCCl | CH2Cl2
product | 2-oxo-oxazolidine-3-sulfonic acid (3-ethylphenyl)amide | yield 80% | C(C)C=1C=C(C=CC1)NS(=O)(=O)N1C(OCC1)=O | C11H14N2O4S
